US05104888
Ethyl 3-[4-(6-acetoxy-2-isobutyl-5,7,8-trimethyl-4-oxochroman-2-ylmethoxy)phenyl]-2-chloropropionate (Step D3)
1.5 ml of concentrated hydrochloric acid was added to mixture of 1.1 g of 6-acetoxy-2-(4-aminophenoxymethyl)-2-isobutyl-5,7,8-trimethylchroman-4-one (prepared as described in Preparation 8) and 20 ml of acetone under a nitrogen stream and at room temperature. This was followed by 0.8 g of sodium nitrite and 0.3 ml of water, and then by 4 g of ethyl acrylate. 0.1 g of cuprous oxide was added at room temperature to the reaction mixture, which was then stirred for 1 hour. Water was then added, and the mixture was extracted with benzene. The benzene extract was washed with water and dried over anhdyrous sodium sulfate, and the solvent was distilled off under reduced pressure. The residue was purified by silica gel column chromatography using a 5.1 by volume mixture of hexane and ethyl acetate as eluent, to give the title compound.

reactant | hydrochloric acid | 1.5 ml | Cl | ClH
reactant | 6-acetoxy-2-(4-aminophenoxymethyl)-2-isobutyl-5,7,8-trimethylchroman-4-one | 1.1 g | C(C)(=O)OC=1C(=C2C(CC(OC2=C(C1C)C)(CC(C)C)COC1=CC=C(C=C1)N)=O)C | C25H31NO5
reactant | sodium nitrite | 0.8 g | N(=O)[O-].[Na+]
reactant | ethyl acrylate | 4 g | C(C=C)(=O)OCC | C5H8O2
solvent | Water | O | H2O
solvent | water | 0.3 ml | O | H2O
solvent | acetone | 20 ml | CC(=O)C | C3H6O
product | Ethyl 3-[4-(6-acetoxy-2-isobutyl-5,7,8-trimethyl-4-oxochroman-2-ylmethoxy)phenyl]-2-chloropropionate | C(C)(=O)OC=1C(=C2C(CC(OC2=C(C1C)C)(CC(C)C)COC1=CC=C(C=C1)CC(C(=O)OCC)Cl)=O)C | C30H37ClO7
